US04550107
5,11-Dihydro-11-[[4-(dimethylamino)-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride
First, 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one (7.0 g, 0.0243 mol) is suspended in anhydrous dioxan (150 ml) and refluxed for 3 hours after the addition of 4-(dimethylamino)piperidine hydrochloride (4.9 g, 0.0298 mol) and triethylamine (10.0 g, 0.099 mol). Then the mixture is concentrated in vacuo. The residue is made alkaline with sodium hydroxide and extracted exhaustively with dichloromethane. The combined dichloromethane extracts are dried over sodium sulphate and concentrated. The highly viscous residue is taken up in dioxan, clarified with activated charcoal and mixed with ethereal hydrochloric acid solution. The colorless crystals (2.0 g) obtained melted 258° C. after recrystallization from methanol.

reactant | 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.0243 mol, 7.0 g | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | 4-(dimethylamino)piperidine hydrochloride | 0.0298 mol, 4.9 g | Cl.CN(C1CCNCC1)C
reactant | triethylamine | 0.099 mol, 10.0 g | C(C)N(CC)CC | C6H15N
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 5,11-Dihydro-11-[[4-(dimethylamino)-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride | 2.0 g | Cl.CN(C1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)C | InChI=1S/C21H25N5O2.ClH/c1-24(2)15-9-12-25(13-10-15)14-19(27)26-18-8-4-3-6-16(18)21(28)23-17-7-5-11-22-20(17)26;/h3-8,11,15H,9-10,12-14H2,1-2H3,(H,23,28);1H
